US06515011B2
PPh3 (1.46 g, 5.58 mmol) was added to a stirred solution of 5-chloro-2-iodobenzylazide (0.55 g, 1.86 mmol) in THF (17.5 mL), and water (3.5 mL) were combined and stirred at room temperature. After 16 hr, the mixture was warmed to 80° C. for 3 h. The reaction was then concentrated and the residue was partitioned between ether and 1N HCl. The aqueous layer was adjusted to pH=8 with NaHCO3, saturated with NaCl and then extracted into CH2Cl2. The CH2Cl2 layer was washed with brine, dried (Na2SO4) and evaporated to give 5-chloro-2-iodobenzylamine (428 mg): 1H NMR (CDCl3, 400 MHz) δ 3.83 (s, 2H), 6.95 (dd, J=2.6, 8.4 Hz, 1H), 7.40 (d, J=2.4 Hz, 1H), 7.72 (d, J=8.2 Hz, 1H).

reactant | PPh3 | 5.58 mmol, 1.46 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | 5-chloro-2-iodobenzylazide | 1.86 mmol, 0.55 g | ClC=1C=CC(=C(CN=[N+]=[N-])C1)I | C7H5ClIN3
reactant | water | 3.5 mL | O | H2O
solvent | THF | 17.5 mL | C1CCOC1 | C4H8O
product | 5-chloro-2-iodobenzylamine | 428 mg | ClC=1C=CC(=C(CN)C1)I | C7H7ClIN
